US04008252
A warm (40° C.) solution of 29.8 g. (0.1 mole) of sodium dichromate dihydrate in 80 ml of glacial acetic acid is added over a 5-minute period to a stirred, warm (60° C.) solution of 25.5 g. (0.1 mole) of 6-bromo-3-(hydroxymethyl)chromone in 300 ml of glacial acetic acid. The temperature rises to 72° C. After one-half hour, water (1400 ml) is added and the mixture is heated at 80° C. for a few minutes. The mixture is cooled and filtered to give 13.6 g. (54%) of good quality aldehyde. Recrystallization from ethyl acetate gives pure 6-bromo-3-formylchromone having mp 186°-188° C.

reactant | sodium dichromate dihydrate | 0.1 mole | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 6-bromo-3-(hydroxymethyl)chromone | 0.1 mole | BrC=1C=C2C(C(=COC2=CC1)CO)=O | C10H7BrO3
reactant | water | 1400 ml | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-3-formylchromone | BrC=1C=C2C(C(=COC2=CC1)C=O)=O | C10H5BrO3
